US05661159
To a mixture of 7-chloro-2-(2-methoxycarbonylbenzofuran-5-yl)quinoline (0.92 g) in tetrahydrofuran (10 ml), lithium aluminum hydride (76.7 mg) was added dropwise under ice cooling. After being stirred for 2 hours, the resulting mixture was poured into a mixture of ice and diluted aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and toluene. The fractions containing object compound were combined, concentrated under reduced pressure, and recrystallized from toluene to give 7-chloro-2-(2-hydroxymethylbenzofuran-5-yl)quinoline (0.58

reactant | 7-chloro-2-(2-methoxycarbonylbenzofuran-5-yl)quinoline | 0.92 g | ClC1=CC=C2C=CC(=NC2=C1)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C19H12ClNO3
reactant | lithium aluminum hydride | 76.7 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-chloro-2-(2-hydroxymethylbenzofuran-5-yl)quinoline | ClC1=CC=C2C=CC(=NC2=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C18H12ClNO2
